US08664379B2
To a solution of 7-hydroxy-3,4-dihydroquinolin-2(1H)-one (2.015 g, 12.35 mmol) in anhydrous N,N-dimethylformamide (25 mL) was added potassium carbonate (1.880 g, 13.60 mmol) with stirring, and tert-butyl 4-(bromomethyl)benzoate (2.960 g, 10.83 mmol) in N,N-dimethylformamide (10 mL) was added. The reaction mixture was stirred at room temperature for 30 minutes, then heated to 60° C. for 72 hours. The mixture was cooled, the solvent volume reduced to half under reduced pressure, and the residue poured slowly into water (100 mL) with stirring. Diethyl ether (5 mL) was added, the mixture sonicated, filtered, and the white solid thus obtained was washed with saturated sodium carbonate (60 mL), water (200 mL), diethyl ether (15 mL), and dried to afford tert-butyl 4-((2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)methyl)benzoate (2.122 g, 6.00 mmol, 55%). LCMS mz 376.0 (M+Na), anal HPLC>92% in purity, 1H NMR (400 MHz; CDCl3) 8.00 (d, J=8.6 Hz, 1H); 7.55 (s, 2H); 7.45 (d, J=8.6 Hz, 2H); 7.05 (d, J=8.2 Hz, 1H); 6.57 (dd, J=8.4 and 2.5 Hz, 1H); 6.35 (d, J=2.3 Hz, 1H); 2.90 (m, 2H); 2.61 (m, 2H); 1.60 (s, 9H).

reactant | 7-hydroxy-3,4-dihydroquinolin-2(1H)-one | 12.35 mmol, 2.015 g | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
reactant | potassium carbonate | 13.60 mmol, 1.880 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-(bromomethyl)benzoate | 10.83 mmol, 2.960 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Diethyl ether | 5 mL | C(C)OCC | C4H10O
product | tert-butyl 4-((2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)methyl)benzoate | 6.00 mmol, 2.122 g, 55% | O=C1NC2=CC(=CC=C2CC1)OCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C21H23NO4
